US04524146
A solution of 11.8 g of ethyl 4-chloroquinoline-3-carboxylate and 8.7 g of 3-hydrazinoquinoline is refluxed for 51/2 hours in 300 ml of xylene. The reaction mixture is allowed to stand for 16 hours at 23°. The solvent is decanted from an oily solid. This solid is slurried twice in 80 ml of xylene, the solvent is decanted and the residue is stirried for 1 hour in 150 ml of IN sodium hydroxide, 150 ml of water and 220 ml of xylene. The mixture is filtered, the aqueous layer is separated and 12 g of ammonium chloride is added while stirring. The resulting slurry is heated on the steam bath for one hour, allowed to cool down to 30° and then filtered. The solid is washed three times with water, twice with ether-acetone (2:1) and twice with ether. Recrystallization from dimethylformamide gives 2-(3-quinolyl)pyrazolo[4,3-c]quinolin-3(5H)-one, m.p. above 350°; IR (KBr) 802, 852, 858, 882, 895 cm-1.

reactant | ethyl 4-chloroquinoline-3-carboxylate | 11.8 g | ClC1=C(C=NC2=CC=CC=C12)C(=O)OCC | C12H10ClNO2
reactant | 3-hydrazinoquinoline | 8.7 g | N(N)C=1C=NC2=CC=CC=C2C1 | C9H9N3
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(3-quinolyl)pyrazolo[4,3-c]quinolin-3(5H)-one | N1=CC(=CC2=CC=CC=C12)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C19H12N4O
